US08071586B2
A) (2-Benzyloxycarbamoyl-ethyl)-((R)-1-hydroxymethyl-2-phenyl-ethyl)-carbamic acid tert-butyl ester
D-Phenylalaninol (880 mg, 5.64 mmol) was added at room temperature to a solution of N-benzyloxy-acrylamide (Tetrahedron Letters 1994, 35, 5157; 1.00 g, 5.64 mmol) in methanol (2 ml). The homogeneous solution was stirred for 5 days at room temperature, then heated at 50° C. for 2 h. After evaporation of volatile material the residue was taken up in dichloromethane (30 ml), then after addition of di-tert-butyl-dicarbonate (1.36 g, 6.21 mmol) the reaction mixture was stirred at room temperature for 16 h. After concentration, the residue was purified by chromatography (SiO2; heptane-ethyl acetate gradient) to afford the title compound (1.24 g, 51%). Colorless oil, MS (ISP)=429.3 (M+H)+.

reactant | D-Phenylalaninol | 5.64 mmol, 880 mg | N[C@H](CC1=CC=CC=C1)CO | C9H13NO
reactant | N-benzyloxy-acrylamide | 5.64 mmol, 1.00 g | C(C1=CC=CC=C1)ONC(C=C)=O | C10H11NO2
reactant | di-tert-butyl-dicarbonate | 6.21 mmol, 1.36 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 2 ml | CO | CH4O
product | (2-Benzyloxycarbamoyl-ethyl)-((R)-1-hydroxymethyl-2-phenyl-ethyl)-carbamic acid tert-butyl ester | 1.24 g, 51% | C(C)(C)(C)OC(N([C@H](CC1=CC=CC=C1)CO)CCC(NOCC1=CC=CC=C1)=O)=O | C24H32N2O5
